US07125840B2
3-(4-Methoxyphenyl)-1,4-dimethyl-1-azaspiro[4.5]dec-3-ene-2-one (881 mg, 3.09 mmol) and N-bromosuccinimide (1.2 eq.) were stirred in 40 mL CCl4 with a catalytic amount of benzoyl peroxide for 3 h at 85° C. After cooling to room temperature the mixture was diluted with CH2Cl2, washed with water, dried (Na2SO4) and evaporated. The 4-bromomethyl-3-(4-methoxyphenyl)-1-methyl-1-azaspiro[4.5]dec-3-ene-2-one thus obtained was dissolved in ethanol (100 mL), CH2Cl2 (20 mL), and ethylamine (70% solution in water, 2 mL), the mixture was stirred overnight at room temperature and concentrated. The residue was dissolved in CH2Cl2, washed with water and extracted with 0.5 M HCl.

reactant | 3-(4-Methoxyphenyl)-1,4-dimethyl-1-azaspiro[4.5]dec-3-ene-2-one | 3.09 mmol, 881 mg | COC1=CC=C(C=C1)C=1C(N(C2(C1C)CCCCC2)C)=O | C18H23NO2
reactant | N-bromosuccinimide | 1.2 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-3-(4-methoxyphenyl)-1-methyl-1-azaspiro[4.5]dec-3-ene-2-one | BrCC1=C(C(N(C12CCCCC2)C)=O)C2=CC=C(C=C2)OC | C18H22BrNO2
